Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Malaise
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ h/o hyponatremia (though to be iso taking Bactrim, in 
___ who presented to the ___ ED with R shoulder pain and 
generalized weakness. Reportedly, patient flew in from ___ 
yesterday as a visitor and has not been feeling well since the 
flight. She reported pain in lateral aspect of right shoulder, 
worse with movement. Further, she endorsed generalized body 
aches, poor po intake, polyuria. She denied any cp, sob, 
pleuritic pain.  
 In the ED, initial VS were: T 97.9, HR 77, BP 131/100, RR 20, 
100% RA  
 Exam notable for: not reported.  
 Labs showed:  
 WBC: 10.5 HgB: 10.4 Plt: 381  
 124| 85| 13 AGap=14  
 ------------<106  
 4.2| 23|0.6  
 ALT: 38 AP: 151 Tbili: 0.6 Alb: 4.0  
 AST: 27 LDH: Dbili: TProt:  
 ___: Lip: 17  
 Lactate:1.0  
 Trop-T: <0.01  
 UA: mod leuks, neg blood and nitrites, 2 RBC, 8 WBC, ket 40, 
few bact  
 Other Urine Chemistry:  
 Creat:106 | Na:65 | K:39 | Cl:46 |Osmolal:524  
 Imaging showed:  
 ECG: sinus at 70, leftward axis, no other abnormalities  
 CXR- no acute abnormality on my read  
 Xray shoulder: no obvious deformity, abnormality  
 Patient received: 1L NS  
 No services were consulted  
 Transfer VS were: HR71, 160/75, RR20, 99% RA  
 On arrival to the floor, patient reports having improvement in 
her shoulder pain but ongoing diffuse fatigue, malaise, aches. 
States it felt like she was coming down with the flu. No fevers, 
chills, n/v/d/c/sob/cp. Poor po in the last few days with 
ongoing polyuria
 
Past Medical History:
HTN
No cardiac disease, blood clots, malignancy Hx
 
Social History:
___
Family History:
Brother with MI in his ___ 
 
Physical Exam:
ADMISSION EXAM:
 VS: 98.0 PO 157/77 73 18 98 ra  
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
 NECK: supple, no LAD, no JVD  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: no cyanosis, clubbing, or edema  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&Ox3, moving all 4 extremities with purpose  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE EXAM:
VITALS: T 99 BP 157/76 HR 73 RR 18 O2 97% on RA 
GENERAL: Alert, oriented Caucasian female.  Sitting up in bed 
and energetic.  In no acute distress  
HEENT: Sclerae anicteric, MMM.
CARDIOVASCULAR: Regular rate and rhythm, normal S1 + S2, no 
murmurs, rubs, gallops.
LUNGS: Clear to auscultation bilaterally without wheezes, rales, 
rhonchi
ABDOMEN: Soft, non-tender, non-distended, without rebound 
tenderness or guarding. 
THORAX:  No CVA tenderness bilaterally.
GU: No foley  
EXTREMITIES: Warm, well perfused, 2+ pulses in the dorsalis 
pedis bilaterally, no clubbing, cyanosis or edema.  Lidocaine 
patch on R shoulder.  
NEURO: Moves all four limbs purposefully.  Ambulates steadily 
without assistance at a good pace down the hall.
 
Pertinent Results:
ADMISSION LABS:
___ 05:50AM   GLUCOSE-115* UREA N-9 CREAT-0.6 SODIUM-128* 
POTASSIUM-4.4 CHLORIDE-91* TOTAL CO2-21* ANION GAP-16
___ 05:50AM   CALCIUM-9.1 PHOSPHATE-2.2* MAGNESIUM-1.8
___ 05:50AM   OSMOLAL-267*
___ 05:50AM   WBC-9.3 RBC-3.66* HGB-10.7* HCT-30.8* MCV-84 
MCH-29.2 MCHC-34.7 RDW-11.9 RDWSD-36.3
___ 05:50AM   PLT COUNT-403*
___ 11:40PM URINE  HOURS-RANDOM CREAT-106 SODIUM-65 
POTASSIUM-39 CHLORIDE-46
___ 11:40PM URINE  OSMOLAL-524
___ 11:40PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-40* BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-MOD*
___ 11:40PM URINE  RBC-2 WBC-8* BACTERIA-FEW* YEAST-NONE 
EPI-1
___ 11:40PM URINE  MUCOUS-RARE*
___ 09:33PM   GLUCOSE-106* UREA N-13 CREAT-0.6 SODIUM-124* 
POTASSIUM-4.2 CHLORIDE-85* TOTAL CO2-23 ANION GAP-14
___ 09:33PM   estGFR-Using this
___ 09:33PM   ALT(SGPT)-38 AST(SGOT)-27 ALK PHOS-151* TOT 
BILI-0.6
___ 09:33PM   LIPASE-17
___ 09:33PM   cTropnT-<0.01
___ 09:33PM   ALBUMIN-4.0
___ 09:33PM   LACTATE-1.0
___ 09:33PM   WBC-10.5* RBC-3.64* HGB-10.4* HCT-30.6* 
MCV-84 MCH-28.6 MCHC-34.0 RDW-11.8 RDWSD-36.2
___ 09:33PM   NEUTS-79.2* LYMPHS-12.0* MONOS-7.6 EOS-0.3* 
BASOS-0.4 IM ___ AbsNeut-8.35* AbsLymp-1.27 AbsMono-0.80 
AbsEos-0.03* AbsBaso-0.04
___ 09:33PM   PLT COUNT-381
___ 11:40PM URINE Color-Yellow Appear-Clear Sp ___
___ 11:40PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-40* Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-MOD*
___ 11:40PM URINE RBC-2 WBC-8* Bacteri-FEW* Yeast-NONE 
Epi-1
___ 11:40PM URINE Mucous-RARE*
___ 11:40PM URINE
___ 11:40PM URINE Hours-RANDOM Creat-106 Na-65 K-39 Cl-46
___ 11:40PM URINE Osmolal-524

PERTINENT IMAGING:
CXR PA AND LATERAL (___):  
On the frontal chest radiograph projecting over the anterior 
first interspace 
is the suggestion of a cm size nodule.  Same finding is seen on 
external view 
of the right shoulder performed subsequently, 02:17 on ___. 
Lungs are otherwise clear; nipple shadows should not be mistaken 
for nodules 
in the lower lungs.  Heart size top-normal.  Normal hilar and 
mediastinal 
contours and pleural surfaces. 
  
IMPRESSION: 
Please note changed from ED wet read earlier: 
  
Possible small right upper lobe lung nodule should be evaluated 
with chest CT. 
  
No pneumonia 
  
RECOMMENDATION(S):  Elective chest CT 

SHOULDER XR (___):
No acute fracture or dislocation.

PERTINENT MICRO:
BCX (___):  Pending
UCX (___):  Pending

DISCHARGE LABS:

___ 05:50AM BLOOD WBC-9.3 RBC-3.66* Hgb-10.7* Hct-30.8* 
MCV-84 MCH-29.2 MCHC-34.7 RDW-11.9 RDWSD-36.3 Plt ___
___ 05:50AM BLOOD Glucose-115* UreaN-9 Creat-0.6 Na-128* 
K-4.4 Cl-91* HCO3-21* AnGap-16
___ 05:50AM BLOOD Osmolal-267*
___ 05:50AM BLOOD Calcium-9.1 Phos-2.2* Mg-1.8
 
Brief Hospital Course:
Ms ___ is a ___ with PMHx hypertension and prior hyponatremia 
(thought to be I/s/o taking TMP/SMX) who presented to ___ ED 
with a chief complaint of R shoulder pain and generalized 
weakness.  Pt had recently flown in from ___ for vacation 
with her son, and had previously been feeling well before her 
flight.  Shortly after arrival, she reports feeling generalized 
malaise and R shoulder pain.  She presented to ___ ED, where 
she was found to have a sodium down to 124.  She was admitted 
for further management of hyponatremia.  She was given 1L NS 
overnight.  Her urine lytes were consistent with SIADH.  Workup 
further notable for a CXR with a 1cm nodule, of unclear 
duration.  The morning after admission, she was feeling well and 
her sodium had improved to 128 - so she was discharged home, 
with encouragement to follow up with her PCP regarding lung 
nodule and hyponatremia.

ACTIVE ISSUES:
# HYPONATREMIA with
# SIADH:  
Of unclear time course given her arrival in the ___ 2 days prior 
to arrival.  Pt reports a previous episode of this in the past, 
thought to be due to Bactrim.  She notes that she had been 
taking an "anti-inflammatory" pill for 10d prior to arrival in 
response to R heel pain thought to be due to Achilles 
tendonitis.  She was given 1L NS overnight due to concern for 
possible hypovolemia.  Her urine lytes were consistent with 
SIADH, and her sodium had improved the following morning.  Her 
hyponatremia is thought to be due to another medication effect 
(likely I/s/o NSAID use prior to arrival).  Pt was encouraged to 
avoid NSAID's in the future, and to return for evaluation if she 
feels worse for another sodium check.

# ASYMPTOMATIC BACTERIURIA:
Pt with urinalysis demonstrating moderate leukocytes, 8 WBC in 
the urine.  Pt initially endorsed a history of urinary frequency 
worse at night; upon further discussion, she has had these 
symptoms for many years.  Denied any fevers, chills, flank pain, 
abdominal pain, N/V, dysuria, hematuria.  As such, she was not 
treated in accordance with asymptomatic bacteriuria.  Her UCx 
was pending at time of discharge.

# SOLITARY PULMONARY NODULE, RUL:
Pt with a 1cm solitary pulmonary nodule seen in the R lung.  She 
denies any preceding history of unexplained fevers, chills, 
night sweats, weight loss prior to arrival.  Per ___ 
guidelines, recommended follow-up for this lesion includes a CT 
scan for interval assessment in 3 months' time (___).  Pt 
encouraged to discuss this finding with her PCP.

# GENERALIZED MALAISE:
Likely in the setting of hyponatremia vs. viral prodrome.  Pt 
without preceding respiratory symptoms, or recent 
fevers/malaise.  She was encouraged to rest as needed today and 
continue to eat/drink well.

# R SHOULDER PAIN:
No bony deformity on XR.  ROM intact.  Pain improved with 
lidocaine patch and acetaminophen.  Encouraged to continue 
taking acetaminophen as needed for pain, and to avoid NSAID's 
previously.

CHRONIC/STABLE ISSUES:
# HYPERTENSION:
- Continued home perindopril 4mg daily.

TRANSITIONAL ISSUES:
# CODE:  Full
# CONTACT:  ___ (___) 

[ ] SIADH:
- Thought to be due to medicine effect from recent NSAID use.  
Please avoid NSAID's in the future.
- Pt can follow up sodium check if desired with PCP.

[ ] SOLITARY PULMONARY NODULE:
- 1cm in size in the RUL.  Per ___ guidelines, recommend 
follow-up in 3 months time with a CT scan.  Can consider other 
follow-up with repeat CXR or as needed.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. perindopril erbumine 4 mg oral DAILY 
2. Naproxen 500 mg PO Q12H 
3. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  perindopril erbumine 4 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Hyponatremia
Solitary pulmonary nodule (1cm)

SECONDARY:
History of hypertension
Asymptomatic bacteriuria
Shoulder pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___.

WHY WAS I SEEN IN THE HOSPITAL?
- You were feeling very weak.
- You were found to have a low salt ("sodium") level.
- You had an abnormal urine test, but because you were not 
having symptoms, we did not treat you for an infection.

WHAT WAS DONE WHILE I WAS IN THE HOSPITAL?
- You were given fluids, which helped increase your salt level.
- We stopped medicines that could contribute to your low salt 
levels, including your anti-inflammatory medicine ("naproxen") 
and omeprazole.
- On a chest X-ray, we saw a small spot on your lung.  Our 
radiologists recommended that you get a CT scan of your chest to 
follow this up in several months.

WHAT SHOULD I DO WHEN I GO HOME?
- Please take all antibiotics as prescribed.
- Please avoid naproxen and other drugs like it ("NSAID's," such 
as ibuprofen, Aleve, and aspirin), as well as omeprazole, until 
you discuss with your doctor.
- Please discuss the spot on your lung with your doctor.  We 
will provide you with a copy of the report.  He may decide to 
perform a repeat chest X-ray, or a CT scan of the chest, in a 
few months' time.

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___